US08242125B2
47-C. (±)-1-Benzyl-2-methyl-3-oxo-piperidine-4-carboxylic acid methyl ester
A mixture of 4-[benzyl-(1-ethoxycarbonyl-ethyl)-amino]-butyric acid methyl ester (1.5 g, 4.9 mmol), potassium tert-butoxide (906 mg, 8.9 mmol) and toluene (100 mL) is stirred at rt for 3 h. The mixture is then partitioned between DCM and saturated aqueous NH4Cl. The organic layer is removed, dried over anhydrous Na2SO4, and concentrated. The crude residue is used without further purification. MS (ESI) m/z 262.2 (M+1).

reactant | 4-[benzyl-(1-ethoxycarbonyl-ethyl)-amino]-butyric acid methyl ester | 4.9 mmol, 1.5 g | COC(CCCN(C(C)C(=O)OCC)CC1=CC=CC=C1)=O | C17H25NO4
reactant | potassium tert-butoxide | 8.9 mmol, 906 mg | CC(C)([O-])C.[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-1-Benzyl-2-methyl-3-oxo-piperidine-4-carboxylic acid methyl ester | COC(=O)C1C(C(N(CC1)CC1=CC=CC=C1)C)=O | C15H19NO3
